US05272147
(E)-4-Ethoxy-3-(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamonitrile
The title compound was prepared from acrylonitrile and 5-(5-bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one following the procedure of Example 19 and was obtained as off-white crystals (33%). Found C,65.99; H,5.52; N,19.07. C20H21N5O2 requires C,66.10; H,5.82; N,19.27%.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 5-(5-bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | BrC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H19BrN4O2
product | (E)-4-Ethoxy-3-(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamonitrile | C(C)OC1=C(C=C(/C=C/C#N)C=C1)C=1NCC2=C(N1)C(=NN2C)CCC | C20H23N5O
